US06538015B1
A solution containing 120 mg of 4-[3-Azidomethyl-5-(3,5-dichloro-phenylsulfanyl)-1-isopropyl-1H-pyrazol-4-ylmethyl]-pyridine in 5 ml of ethyl acetate was treated with 20 mg of 10% palladium on charcoal and then hydrogenated at atmospheric pressure for 2.0 h. The mixture was filtered and then the solvent was removed under reduced pressure. The residue was purified by flash chromatography on silica gel using methanol/dichloromethane (1:9) for the elution to give 61 mg of 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3-methylamine as a pale yellow oil. Mass spectrum (ESI) m/z 407 [M+H]+. 1H NMR (DMSO) 1.30 (d, 6H), 3.72 (s, 2H), 3.90 (s, 2H), 4.70 (m, 1H), 6.78 (s, 2H), 7.10 (d, 2H), 7.37 (s, 1H), 8.30 (d, 2H).

reactant | 4-[3-Azidomethyl-5-(3,5-dichloro-phenylsulfanyl)-1-isopropyl-1H-pyrazol-4-ylmethyl]-pyridine | 120 mg | N(=[N+]=[N-])CC1=NN(C(=C1CC1=CC=NC=C1)SC1=CC(=CC(=C1)Cl)Cl)C(C)C | C19H18Cl2N6S
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3-methylamine | 61 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)CN)CC1=CC=NC=C1 | C19H20Cl2N4S
